US06576789B1
Analogously to Example 12, 12 g (52 mmol) of pinacolyl 4-formylphenylboronate were hydrogenated in 100 ml of methanol, giving 11.7 g (50 mmol) of 4-(hydroxymethyl)phenylboronic acid.

reactant | pinacolyl 4-formylphenylboronate | 52 mmol, 12 g | C(=O)C1=CC=C(C=C1)B(OC(C)C(C)(C)C)[O-]
solvent | methanol | 100 ml | CO | CH4O
product | 4-(hydroxymethyl)phenylboronic acid | 50 mmol, 11.7 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
